US06420375B1
Preparation of ethyl (E)-3-(3-quinolinyl)acrylate
3-Quinolinecarbaldehyde (5.03 g) was added to a mixture of ethyl diethylphosphonoacetate (9.31 g) and NaH (60% oil dispersion,0.791 g) in THF under ice cooling. The mixture was stirred at room temperature for 14 hours. To the mixture were added water and ethyl acetate. The organic layer was washed with water and brine, dried and concentrated. The residue was chromatographed on silica gel (hexane-ethyl acetate=10:1) followed by crystallization from CH2Cl2-cyclohexane to give the titled compound (3.20 g) as a colorless solid.

reactant | 3-Quinolinecarbaldehyde | 5.03 g | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | ethyl diethylphosphonoacetate | 9.31 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | NaH | 0.791 g | [H-].[Na+]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (E)-3-(3-quinolinyl)acrylate | 3.20 g | N1=CC(=CC2=CC=CC=C12)/C=C/C(=O)OCC | C14H13NO2
